US07196100B2
4-[4-(3-Phenyl-propylamino)-cyclohexyloxy]-benzamide
Combine 4-(4-oxo-cyclohexyloxy)-benzamide (20 mg, 0.085 mmol), 3-phenyl-propylamine (11 mg, 0.085 mmol), triacetoxyborohydride (23 mg, 0.111 mmol) and acetic acid (5 μL, 0.085 mmol) in CH2Cl2 (1 mL). Let stir overnight. Purify by SCX column (ammonia in methanol 2.0M). Triturate the residue with EtOAc/hexanes 1/1 to provide a white powder (25 mg, 86%).

reactant | 4-(4-oxo-cyclohexyloxy)-benzamide | 0.085 mmol, 20 mg | O=C1CCC(CC1)OC1=CC=C(C(=O)N)C=C1 | C13H15NO3
reactant | 3-phenyl-propylamine | 0.085 mmol, 11 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | triacetoxyborohydride | 0.111 mmol, 23 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | acetic acid | 0.085 mmol, 5 μL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(3-Phenyl-propylamino)-cyclohexyloxy]-benzamide | 25 mg, 86% | C1(=CC=CC=C1)CCCNC1CCC(CC1)OC1=CC=C(C(=O)N)C=C1 | C22H28N2O2
